US07842672B2
[5-(3-Carbamoyl-[1,2,4]triazol-1-yl)-4-hydroxy-tetrahydro-furan-2-yloxymethyl]-phosphonic acid
The 1-[3-benzoyloxy-5-(diethoxy-phosphorylmethoxy)-tetrahydrofuran-2-yl]-1H-[1,2,4]triazole-3-carboxylic acid methyl ester (60 mg. 0.124 mmol) was dissolved in MeCN (1.5 mL). Bromotrimethylsilane (0.164 mL, 1.24 mmol) and 2,6-lutidine (0.043 mL, 0.372 mmol) were added and the mixture stirred at ambient temperature for 10 h. The solvents were removed in vacuo and the product isolated by C-18 HPLC. To this was then added ammonia (7 N in MeOH, 4 mL) and the mixture stirred overnight. The title compound was isolated by C-18 HPLC. 1H NMR (300 MHz, D2O) ppm 8.65 (s, 1H), 5.95 (d, 1H, J=2.4 Hz), 5.49-5.52 (m, 1H), 4.81-4.89 (m, 1H), 3.47-3.70 (m, 2H), 2.27-2.32 (m, 2H). 31P NMR (121.4 MHz, D2O) ppm 15.0. LRMS (ESI) M-H C8H12N4O7P requires 307.0 Found 307.0.

reactant | 1-[3-benzoyloxy-5-(diethoxy-phosphorylmethoxy)-tetrahydrofuran-2-yl]-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | 0.124 mmol, 60 mg | COC(=O)C1=NN(C=N1)C1OC(CC1OC(C1=CC=CC=C1)=O)OCP(=O)(OCC)OCC | C20H26N3O9P
reactant | Bromotrimethylsilane | 1.24 mmol, 0.164 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | 2,6-lutidine | 0.372 mmol, 0.043 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | ammonia | 7 N, 4 mL | N | H3N
solvent | MeCN | 1.5 mL | CC#N | C2H3N
product | [5-(3-Carbamoyl-[1,2,4]triazol-1-yl)-4-hydroxy-tetrahydro-furan-2-yloxymethyl]-phosphonic acid | C(N)(=O)C1=NN(C=N1)C1C(CC(O1)OCP(O)(O)=O)O | C8H13N4O7P
